US07888344B2
Ethyl N-(tert-butoxycarbonyl)-5-hydroxy-L-tryptophanate
To a stirred solution of ethyl 5-hydroxy-L-tryptophanate hydrochloride (23.5 g, 82.6 mmol) in DCM (500 mL) was added NEt3 (25.4 g, 35.0 mL, 247.8 mmol) and di-tert-butyl dicarbonate (18.0 g, 82.6 mmol). The reaction mixture was stirred for 3 h at r.t. and then partitioned with water (250 mL). The organic layer was washed with brine (200 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a cream solid (28.1 g, 98%) that required no further purification. δH (DMSO-d6) 10.50 (1H, br. s), 8.58 (s, 1H), 7.14-7.05 (3H, m), 6.79 (1H, d, J 2.2 Hz), 6.59 (1H, dd, J 8.6 and 2.3 Hz), 5.75-3.99 (3H, s), 3.03-2.86 (2H, m), 1.35 (9H, s), 1.11 (3H, t, J 6.1 Hz). LCMS (ES+) 349.0 (M+H)+.

reactant | ethyl 5-hydroxy-L-tryptophanate hydrochloride | 82.6 mmol, 23.5 g | Cl.OC1=CC=C2NC=C(C[C@H](N)C(=O)OCC)C2=C1
reactant | NEt3 | 247.8 mmol, 35.0 mL, 25.4 g | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 82.6 mmol, 18.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | Ethyl N-(tert-butoxycarbonyl)-5-hydroxy-L-tryptophanate | 28.1 g, 98% | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=C(C=C12)O)C(=O)OCC | C18H24N2O5
